US07087594B2
In 8 mL of N,N-dimethylformamide was dissolved 0.80 g of 5-[2-(3-chloropropoxy)ethyl]-1-benzothiophene, and 1.20 g of N-(3-azetidinyl)acetamide was added to the solution, after which the resulting mixture was stirred at 90° C. for 12 hours. After the reaction mixture was cooled, water and ethyl acetate were added thereto and the organic layer was separated. The organic layer was washed with water and then a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified by a column chromatography (eluent; chloroform:methanol=7:1) to obtain 0.39 g of N-(1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-3-azetidinyl)acetamide as a light-yellow oil.

reactant | 5-[2-(3-chloropropoxy)ethyl]-1-benzothiophene | 0.80 g | ClCCCOCCC=1C=CC2=C(C=CS2)C1 | C13H15ClOS
reactant | N-(3-azetidinyl)acetamide | 1.20 g | N1CC(C1)NC(C)=O | C5H10N2O
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | N-(1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-3-azetidinyl)acetamide | 0.39 g | S1C=CC2=C1C=CC(=C2)CCOCCCN2CC(C2)NC(C)=O | C18H24N2O2S
